US08471005B2
Into a microwave vial, 6-(4-Methyl-piperazin-1-ylmethyl)-pyridin-2-ylamine (0.149 g, 0.722 mmol), 2-Methanesulfinyl-7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.110 g, 0.328 mmol), N,N-Diisopropylethylamine (0.126 mL, 0.722 mmol), and 1-Methoxy-2-propanol (0.5 mL, 5 mmol) were added. The reaction was microwaved on 300 watts, 180° C. for 4 hours. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give [7-(3-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[6-(4-methyl-piperazin-1-ylmethyl)-pyridin-2-yl]-amine a yellow solid (20 mg, 10%). LCMS (E/I+) 478.8 (M+H). NMR 1H (DMSO-d6)-9.16 (s, 1H), 8.81 (d, 1H, J=7.82), 8.78 (s, 1H), 8.46 (dd, 1H, JJ=1.89, 5.36 Hz), 7.83-7.95 (m, 2H), 7.78 (t, 1H, J=7.57 Hz), 7.58 (d, 1H, J=5.05 Hz), 7.19 (dd, 1H, JJ=5.05, 6.94 Hz), 7.15 (d, 1H, J=5.05 Hz), 3.80 (s, 2H), 3.40-3.51 (m, 2H), 2.93-3.11 (m, 4H), 2.81 (s, 3H), 2.34-2.60 (m, 5H).

reactant | 6-(4-Methyl-piperazin-1-ylmethyl)-pyridin-2-ylamine | 0.722 mmol, 0.149 g | CN1CCN(CC1)CC1=CC=CC(=N1)N | C11H18N4
reactant | 2-Methanesulfinyl-7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.328 mmol, 0.110 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)C | C14H13N3O3S2
reactant | N,N-Diisopropylethylamine | 0.722 mmol, 0.126 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 5 mmol, 0.5 mL | COCC(C)O | C4H10O2
product | [7-(3-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[6-(4-methyl-piperazin-1-ylmethyl)-pyridin-2-yl]-amine | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=NC(=CC=C2)CN2CCN(CC2)C | C24H27N7O2S
